US04314061
3,6-bis(2-isopropylaminoethoxy)acridine trihydrochloride
The compound is prepared from 3,6-bis(2-chloroethoxy)acridine hydrochloride and isopropylamine as described in Example 15, giving 1.1 g. of the desired product as yellow crystals, m.p. 232°-234° C.

reactant | 3,6-bis(2-chloroethoxy)acridine hydrochloride | Cl.ClCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCl
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 3,6-bis(2-isopropylaminoethoxy)acridine trihydrochloride | Cl.Cl.Cl.C(C)(C)NCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCNC(C)C | InChI=1S/C23H31N3O2.3ClH/c1-16(2)24-9-11-27-20-7-5-18-13-19-6-8-21(28-12-10-25-17(3)4)15-23(19)26-22(18)14-20;;;/h5-8,13-17,24-25H,9-12H2,1-4H3;3*1H
